US06660744B1
A mixture of 2-phenyl-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetonitrile (0.120 g, 0.000376 mol), cis-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.083 g, 0.000188 mol), tetrakis-(triphenylphosphine)palladium (0.013 g, 0.000011 mol) and sodium carbonate monohydrate (0.058 g, 0.00047 mol) was heated in a mixture of ethylene glycol dimethyl ether (5 mL) and water (3 mL) at 80° C. for 16 hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under the reduced pressure. The residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield cis-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)(phenyl)methyl cyanide (0.025 g, 0.0000494 mol) as an off-white solid.

reactant | 2-phenyl-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetonitrile | 0.000376 mol, 0.120 g | C1(=CC=CC=C1)C(C#N)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H22BNO2
reactant | cis-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.000188 mol, 0.083 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate monohydrate | 0.00047 mol, 0.058 g | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 5 mL | COCCOC | C4H10O2
solvent | water | 3 mL | O | H2O
product | cis-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)(phenyl)methyl cyanide | 0.0000494 mol, 0.025 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)C(C2=CC=CC=C2)C#N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C30H34N8
